US04470988
A solution of 3-azido-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one (8.9 g) in dry dimethylformamide (100 ml) is added during 30 minutes to a solution of potassium t-butoxide (4.5 g) in dry dimethylformamide (100 ml) maintained at 0° C. under an atmosphere of dry nitrogen. The reaction mixture is stirred at 0° C. for 2 hours, when a solution of ethyl bromoacetate (5.8 g) in dimethylformamide (10 ml) is added during 5 minutes. The reaction mixture is stirred at 0° C. for 2 hours, then evaporated under reduced pressure. The residue is distributed between ethyl acetate (250 ml) and water (150 ml), and the ethyl acetate solution washed with water (100 ml) and dried over sodium sulfate. The solvent is removed under reduced pressure to give 3-azido-1-ethoxycarbonylmethyl-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one.

reactant | 3-azido-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one | 8.9 g | N(=[N+]=[N-])C1C(NC2=C(CCCC1)C=CC=C2)=O | C12H14N4O
reactant | potassium t-butoxide | 4.5 g | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 5.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-azido-1-ethoxycarbonylmethyl-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one | N(=[N+]=[N-])C1C(N(C2=C(CCCC1)C=CC=C2)CC(=O)OCC)=O | C16H20N4O3
